US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2-H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-chloro-phenyl}-ethyl)amino]-propane dihydrochloride
1.01 gm (0.00245 mol) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2{4-amino-phenyl}-ethyl)-amino]-propane were dissolved in 5 ml of semi-concentrated hydrochloric acid, and the solution was diazotized with 0.17 gm (0.00245 of sodium nitrite. Subsequently, the solution was stirred at 55° C. until no more nitrogen escaped. The solution was made weakly alkline and extracted with methylene chloride. After drying and evaporating in vacuo, the residueal oil was purified on aluminum oxide (200 gm, neutral, activity II; eluant: methylene chloride +2% of ethanol) and the dihydrochloride was precipitated from acetone with ethereal hydrochloric acid.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2{4-amino-phenyl}-ethyl)-amino]-propane | 0.00245 mol, 1.01 gm | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC=C(C=C2)N)C)=O)C=C1OC | C24H33N3O3
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2-H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-chloro-phenyl}-ethyl)amino]-propane dihydrochloride | Cl.Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC=C(C=C2)Cl)C)=O)C=C1OC | InChI=1S/C24H31ClN2O3.2ClH/c1-26(13-9-18-5-7-21(25)8-6-18)11-4-12-27-14-10-19-15-22(29-2)23(30-3)16-20(19)17-24(27)28;;/h5-8,15-16H,4,9-14,17H2,1-3H3;2*1H
